US06150373
A 1M solution of lithium aluminium hydride (5 ml; 5 mmol) was added dropwise to a stirred solution of 1.01 g (5 mmol) of 4-(2-diethylaminoethoxy)benzonitrile in 5 ml of dry tetrahydrofuran at 0° C. The mixture was warmed to room temperature and stirred overnight. The reaction was quenched by the cautious addition of a saturated solution of 5 ml of Rochelle's salt and then evaporated. The residue was partitioned between 25 ml of diethyl ether and 25 ml of water and the organic phase was separated, dried over magnesium sulfate and evaporated. The crude product was purified by flash column chromatography on silica gel using dichloromethane/methanol/water/acetic acid (60:18:2:3) for the elution. Product-containing fractions were combined and evaporated to give 785 mg (71%) of 4-(2-diethylaminoethoxy)benzylamine as a colorless oil. [Mass spectrum (ESI) MH+ =223].

reactant | lithium aluminium hydride | 5 mmol, 5 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(2-diethylaminoethoxy)benzonitrile | 5 mmol, 1.01 g | C(C)N(CCOC1=CC=C(C#N)C=C1)CC | C13H18N2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(2-diethylaminoethoxy)benzylamine | 785 mg, 71% | C(C)N(CCOC1=CC=C(CN)C=C1)CC | C13H22N2O
